US04683236
Following the procedure of Example 1, 1.5 g of 1-isopropylergoline-8β-carboxylic acid were esterified with 15 g of cyclohexanol in the presence of 1.5 g of p-toluenesulfonic acid to yield 1-isopropyl-8β-(cyclohexyloxycarbonyl)ergoline. The product, 1.91 g of an oil, was converted to the maleate salt in a 6:1 ether/ethyl acetate solvent mixture. The salt was isolated by evaporation and then recrystallized from ether/methanol; yield=0.93 g of cyclohexyl 1-isopropyl-8β-(cyclohexyloxycarbonyl)ergoline maleate (96.77% pure by HPLC); molecular ion at 380; [α]25D =-40.64°.

reactant | 1-isopropylergoline-8β-carboxylic acid | 1.5 g | C(C)(C)N1C=C2C[C@H]3NC[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)O | C18H22N2O2
reactant | cyclohexanol | 15 g | C1(CCCCC1)O | C6H12O
reactant | p-toluenesulfonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-isopropyl-8β-(cyclohexyloxycarbonyl)ergoline | C(C)(C)N1C=C2C[C@H]3NC[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)OC3CCCCC3 | C24H32N2O2
